US07495018B2
4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine
To 5-[2-(tert-butoxycarbonylamino)-4-pyridyl]-2-ethyl-4-(3-methylphenyl)-1,3-thiazole (synthesized from 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone (35 g, 170 mmol) according to the method described in Example 3) was added 2N-hydrochloric acid (200 mL), and the mixture was stirred for 1 hour at 100° C. The reaction mixture was cooled to room temperature, then, made alkaline with a 2N aqueous sodium hydrogen carbonate solution (200 mL) and aqueous sodium hydrogen carbonate solution. The resulted mixture was extracted by ethyl acetate, and the extracts were washed with water. This extracts were dried and concentrated. The residue was purified by silica gel column chromatography (hexane-ethyl acetate=1:1) to obtain a crystal. This crystal was washed with isopropyl ether, to obtain a title compound (17 g, yield 55%).

reactant | 5-[2-(tert-butoxycarbonylamino)-4-pyridyl]-2-ethyl-4-(3-methylphenyl)-1,3-thiazole | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C22H25N3O2S
reactant | 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone | 170 mmol, 35 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C19H22N2O3
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | sodium hydrogen carbonate | 2N, 200 mL | C(O)([O-])=O.[Na+]
product | 4-[2-ethyl-4-(3-methylphenyl)-1,3-thiazol-5-yl]-2-pyridylamine | 17 g, yield 55% | C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)N | C17H17N3S
